US07371748B2
Morpholine-4-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide
7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine was first reacted with phenyl chloroformate as described for (4-methoxy-7-phenyl-benzothiazol-2-yl)-carbamic acid benzyl ester in WO01/97786 and then with morpholine. Usual workup, peparative reversed-phase HPLC and final dry-freezing afforded the title compound as light brown powder. MS: m/e=394(M+H+).

reactant | 7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | (4-methoxy-7-phenyl-benzothiazol-2-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC)=O | C22H18N2O3S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | Morpholine-4-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCOCC2)OC | C18H23N3O5S
